US04216160
N-(thiophene-2-carbonyl)-2-(acetylthio)acetamide
A reaction mixture comprising 9.8 g. of N,N-dimethyl-2-(acetylthio)acetamidine hydrochloride and 7.0 ml. of thiophene-2-carbonyl chloride in 200 ml. of dichloromethane, under a nitrogen blanket, was cooled to -30° to -48° C. in dry ice/acetone. There was then added 25 ml. of triethylamine in 50 ml. of dichloromethane, and the reaction mixture was allowed to warm to room temperature, where it was kept for 2 hours. The reaction mixture was concentrated in vacuo and the residue was extracted between 300 ml. of dichloromethane, 100 ml. of 2.5 N hydrochloric acid, and 100 ml. of water. The organic layer was separated and the aqueous layer was extracted once with 100 ml. of chloroform. The combined organic layers were washed with water, dried over sodium sulfate, and concentrated to give 13.5 g. of dark brown oil. The oil was chromatographed on 1 kg. of silica gel, eluting with 50% ether/hexane, to give 0.75 g. of final product.

reactant | N,N-dimethyl-2-(acetylthio)acetamidine hydrochloride | Cl.CN(C(CSC(C)=O)=N)C
reactant | thiophene-2-carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
product | N-(thiophene-2-carbonyl)-2-(acetylthio)acetamide | S1C(=CC=C1)C(=O)NC(CSC(C)=O)=O | C9H9NO3S2
